US04363807
4-Nitrobenzyl 7-(2-phenylacetamido)-3-hydroxycepham-4-carboxylate (1.5 g.) was added to a solution of dimethylsulfoxide (15 ml.) and acetic anhydride (15 ml.), and stirred at room temperature for 5 hours. After adding the resultant mixture into water, ethyl acetate was added to the solution, adjusted to pH 7.5 and stirred for an hour. The ethyl acetate layer was separated, washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solution was concentrated under reduced pressure, and the residue was subjected to column chromatography on silica gel with a solution of diisopropyl ether and ethyl acetate (5:1) to give 4-nitrobenzyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate (660 mg.).

reactant | 4-Nitrobenzyl 7-(2-phenylacetamido)-3-hydroxycepham-4-carboxylate | 1.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H21N3O7S
reactant | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-nitrobenzyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate | 660 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C25H23N3O8S
